US06900244B2
Step 1 1-Benzyl-4-({4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl-}amino)piperidine-4-carbonitrile
To a stirred solution of 1-benzyl-4-piperidone (1.3 mL, 7.0 mmol) and 2-(4-aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (Oakwood, 2.0 g, 7.7 mmol) in glacial acetic acid (6.6 mL) was added trimethylsilyl cyanide (0.9 mL, 7.0 mmol) over 5 minutes. After 30 minutes, the reaction was poured in to a mixture of ice (6.5 g) and NH4OH (6.5 mL). Additional NH4OH was added until pH=10. The product was extracted with CH2Cl2 (3×), then washed with brine, dried (Na2SO4), and concentrated to afford the title compound as an off-white solid (3.4 g, quantitative yield). MS (ES+) m/z 458 (MH+).

reactant | 1-benzyl-4-piperidone | 7.0 mmol, 1.3 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 2-(4-aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 7.7 mmol, 2.0 g | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H7F6NO
reactant | trimethylsilyl cyanide | 7.0 mmol, 0.9 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | NH4OH | 6.5 mL | [NH4+].[OH-]
solvent | acetic acid | 6.6 mL | C(C)(=O)O | C2H4O2
product | 1-Benzyl-4-({4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl-}amino)piperidine-4-carbonitrile | 3.4 g, quantitative yield | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C22H21F6N3O
